US04279918
2-(4-chlorobenzyl)-1-[3-(4-fluorobenzoyl)propyl]pyrrolidine
Boil 4 g of 2-(4-chlorobenzyl)pyrrolidine, 6.8 g of ω-chloro-4-fluorobutyrophenone, 4.2 g of potassium carbonate and 20 ml of methyl ethyl ketone under reflux for 68 hours. After cooling the resulting reaction mixture to ambient temperature, add 50 ml of water and 50 ml of diethyl ether. Collect the ether phase and dry it over sodium sulfate. Concentrate the dried ether phase to a brown oil before distilling it under a high vacuum to obtain 2.0 g of the title compound as viscous light-brown oil of b.p. 188° to 192° at 0.02 mm of Hg.

reactant | 2-(4-chlorobenzyl)pyrrolidine | 4 g | ClC1=CC=C(CC2NCCC2)C=C1 | C11H14ClN
reactant | ω-chloro-4-fluorobutyrophenone | 6.8 g | C1=CC(=CC=C1C(=O)CCCCl)F | C10H10ClFO
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 20 ml | C(C)C(=O)C | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 2-(4-chlorobenzyl)-1-[3-(4-fluorobenzoyl)propyl]pyrrolidine | 2.0 g | ClC1=CC=C(CC2N(CCC2)CCCC(C2=CC=C(C=C2)F)=O)C=C1 | C21H23ClFNO
